US06673825B2
4-(3,5-Dichlorophenyl)-1-(methoxycarbonyl)semicarbazide
3,5-Dichlorophenyl isocyanate (25 g, 133 mmol) was added dropwise to a cooled solution of methyl hydrazinocarboxylate (12 g, 133 mmol) in dry toluene (250 ml), with the temperature in the reaction flask maintained below 10° C. during the addition. After 28 h at RT, the precipitate was filtered, washed with toluene and isopropyl ether, and dried to yield the above compound as a white solid (30.3 g, mp=246° C.).

reactant | 3,5-Dichlorophenyl isocyanate | 133 mmol, 25 g | ClC=1C=C(C=C(C1)Cl)N=C=O | C7H3Cl2NO
reactant | methyl hydrazinocarboxylate | 133 mmol, 12 g | N(N)C(=O)OC | C2H6N2O2
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(3,5-Dichlorophenyl)-1-(methoxycarbonyl)semicarbazide | 30.3 g | ClC=1C=C(C=C(C1)Cl)NC(NNC(=O)OC)=O | C9H9Cl2N3O3
